US06156754
I.1) p-Aminophenyl 3-O-methyl-β-L-fucopyranoside
3.81 g (12.73 nmmol) of p-nitrophenyl 3-O-methyl-β-L-fucopyranoside are dissolved in methanol and, after addition of platinum dioxide, hydrogenated in a hydrogen atmosphere at a slight overpressure. After filtering off the catalyst and precipitating with ether, 3 g (88%) of the target product are obtained. [TLC: dichloromethane/methanol 9:1 Rf =0.53].

reactant | p-nitrophenyl 3-O-methyl-β-L-fucopyranoside | 3.81 g | CO[C@H]1[C@@H]([C@@H](OC2=CC=C(C=C2)[N+](=O)[O-])O[C@H]([C@H]1O)C)O | C13H17NO7
reactant | hydrogen | [H][H] | H2
reactant | dichloromethane methanol | ClCCl.CO
solvent | methanol | CO | CH4O
catalyst | platinum dioxide | [Pt](=O)=O
product | p-Aminophenyl 3-O-methyl-β-L-fucopyranoside | CO[C@H]1[C@@H]([C@@H](OC2=CC=C(C=C2)N)O[C@H]([C@H]1O)C)O | C13H19NO5
